US07030116B2
To a solution of N-[(S)-1-(Benzoxazol-2-yl-hydroxy-methyl)-butyl]-2-(1-benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyramide (55 mg, 0.103 mmol) in dry dichloromethane under N2 was added a solution of Dess-Martin Periodinane solution in dichloromethane (15% wt in DCM, 0.206 mmol) and stirred at room temperature for 1 hr. The mixture was quenched with a solution Na2SO3 (65.4 mg) in saturated NaHCO3 (20 mL). The aqueous layer was extracted with dichloromethane (2×25 mL). Organic extracts dried (MgSO4) and concentrated under reduced pressure. Residue purified by silica gel column chromatography eluting with a mixture of ethyl acetate and heptane (1:1 then 2:1) to give N-[(S)-1-(Benzoxazole-2-carbonyl)-butyl]-2-(1-benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyramide as white solid (43 mg).

reactant | N-[(S)-1-(Benzoxazol-2-yl-hydroxy-methyl)-butyl]-2-(1-benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyramide | 0.103 mmol, 55 mg | O1C(=NC2=C1C=CC=C2)C([C@H](CCC)NC(C(CC(=O)N2CCOCC2)CC2(CC2)CC2=CC=CC=C2)=O)O | C31H39N3O5
reactant | Dess-Martin Periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.206 mmol | ClCCl | CH2Cl2
product | N-[(S)-1-(Benzoxazole-2-carbonyl)-butyl]-2-(1-benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyramide | 43 mg | O1C(=NC2=C1C=CC=C2)C(=O)[C@H](CCC)NC(C(CC(=O)N2CCOCC2)CC2(CC2)CC2=CC=CC=C2)=O | C31H37N3O5
